US09056873B2
Step B: 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolizin-1-one
A mixture of 6-bromo-2,3-dihydro-1H-pyrrolizin-1-one (520 mg, 2.60 mmol), bis(pinacolato)diboron (1584 mg, 6.24 mmol), PdCl2(dppf) (95 mg, 0.130 mmol), and potassium acetate (765 mg, 7.80 mmol) in DMSO (12 mL) was heated to 80° C. in an oil bath overnight. The solution was extracted with ether (2×20 mL) and water (30 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated to give the title compound, which was used without further purification (1.56 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.17 (s, 12H), 3.01-3.04 (m, 2H), 4.28-4.30 (m, 2H), 7.51 (s, 1H), 7.92 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C13H18BNO3, 248. found, 248.

reactant | 6-bromo-2,3-dihydro-1H-pyrrolizin-1-one | 2.60 mmol, 520 mg | BrC1=CN2CCC(C2=C1)=O | C7H6BrNO
reactant | bis(pinacolato)diboron | 6.24 mmol, 1584 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.80 mmol, 765 mg | C(C)(=O)[O-].[K+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.130 mmol, 95 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolizin-1-one | CC1(OB(OC1(C)C)C1=CN2CCC(C2=C1)=O)C | C13H18BNO3
